US09388199B2
B. 2-(3-Acetyl-1H-indazol-1-yl)acetic acid
To a solution of tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate (4 g, 12.4 mmol) in CH2Cl2 (45 mL) was added TFA (15 mL, 195.0 mmol), and the reaction mixture was stirred at RT overnight. Then was then diluted with CH2Cl2 and MeOH, and volatiles were evaporated under reduced pressure to afford the title compound: MS: 219 [M+H]+; tR (HPLC conditions d): 2.78 min.

reactant | tert-butyl 2-(3-acetyl-1H-indazol-1-yl)acetate | 12.4 mmol, 4 g | C(C)(=O)C1=NN(C2=CC=CC=C12)CC(=O)OC(C)(C)C | C15H18N2O3
reactant | TFA | 195.0 mmol, 15 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | 2-(3-Acetyl-1H-indazol-1-yl)acetic acid | C(C)(=O)C1=NN(C2=CC=CC=C12)CC(=O)O | C11H10N2O3
